US04661515
To a solution containing 19.2 g (63.8 mmol) of N-(3-mercapto-2-methylpropanoyl)-N-cyclopentylglycine t-butyl ester and 19.3 g (63.7 mmol) of ethacrynic acid in 20 ml of methylene chloride at 0° C. was added a solution of 13.2 g (64.0 mmol) of N,N-dicyclohexylcarbodiimide in 20 ml of methylene chloride. The solution was allowed to warm to room temperature and to stir overnight. The solution was filtered and the filtrate was concentrated in vacuo. Purification of the product by HPLC [10% ethyl acetate in hexanes] afforded N-[3-[2,3-dichloro-4-(2-methylene-1-oxobutyl) phenoxy] acetylthio-2-methylpropanoyl]-N-cyclopentyl glycine t-butyl ester as a viscous oil.

reactant | N-(3-mercapto-2-methylpropanoyl)-N-cyclopentylglycine t-butyl ester | 63.8 mmol, 19.2 g | C(C)(C)(C)OC(CN(C1CCCC1)C(C(CS)C)=O)=O | C15H27NO3S
reactant | ethacrynic acid | 63.7 mmol, 19.3 g | CCC(=C)C(=O)C=1C=CC(=C(C1Cl)Cl)OCC(=O)O | C13H12Cl2O4
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | N-[3-[2,3-dichloro-4-(2-methylene-1-oxobutyl) phenoxy] acetylthio-2-methylpropanoyl]-N-cyclopentyl glycine t-butyl ester | C(C)(C)(C)OC(CN(C1CCCC1)C(C(CSC(COC1=C(C(=C(C=C1)C(C(CC)=C)=O)Cl)Cl)=O)C)=O)=O | C28H37Cl2NO6S
